US08026237B2
Preparation of 1-[4-fluoro-2-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole-3-carboxylic acid [4-(sulfamoyl)phenyl]-amide
Into an oven-dried 1 dram vial was added 2,5-dimethyl-1-[4-fluoro-2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid chloride (106 mg, 332 μmol), sulfanilamide (62.0 mg, 360 μmol), anhyd THF (2.0 mL) and diisopropylethylamine (50 μL). The vial was sealed and heated at 80° C. overnight. The resulting residue was purified by flash chromatography (SiO2), eluting with EtOAc/Hex (30:70 to 60:40) to afford the title compound as an off-white solid (99 mg, 66%); 1H NMR (CDCl3): δ 8.85 (s, 1H), 7.88 (d, J=7 Hz, 2H), 7.84 (d, J=7 Hz, 2H), 7.58 (dd, J=8, 3 Hz, 1H), 7.46 (m, 1H), 7.31 (dd, J=5, 8 Hz, 1H), 6.46 (s, 1H), 6.19 (s, 2H), 2.25 (s, 3H), 1.94 (s, 3H); MS (ESI) m/z 456 [M+H]+.

reactant | 2,5-dimethyl-1-[4-fluoro-2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid chloride | 332 μmol, 106 mg | CC=1N(C(=CC1C(=O)Cl)C)C1=C(C=C(C=C1)F)C(F)(F)F | C14H10ClF4NO
reactant | sulfanilamide | 360 μmol, 62.0 mg | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | diisopropylethylamine | 50 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 1-[4-fluoro-2-(trifluoromethyl)phenyl]-2,5-dimethyl-1H-pyrrole-3-carboxylic acid [4-(sulfamoyl)phenyl]-amide | 99 mg, 66% | S(N)(=O)(=O)C1=CC=C(C=C1)NC(=O)C1=C(N(C(=C1)C)C1=C(C=C(C=C1)F)C(F)(F)F)C | C20H17F4N3O3S
